US06187821B1
(6) 2-Acetamido-4-(4-octylphenyl)butanol
To a suspension of lithium abluminum hydride (1.2 g) in tetrahydrofuran (100 ml), a solution of methyl 2-acetamido-4-(4-octylphenyl)butyrate (11 g) in tetrahydrofuran (200 ml) was added and the suspension was stirred at room temperature for 30 minutes. An aqueous tetrahydrofuran (70%, 10 ml) was added to the solution and the mixture was left standing overnight. Magnesium sulfate was added to the mixture, the precipitate was filtered off and the solvent was distilled away under reduced pressure. The residue was dissolved in ethyl acetate, the solution was washed with a dilute hydrochloric acid, an aqueous sodium hydrogencarbonate solution and a saturated brine in order and dried over sodium sulfate. The solvent was distilled away under reduced pressure to give the subject compound (6.6 g). MS: 319(M+).

reactant | lithium | 1.2 g | [Li] | Li
reactant | methyl 2-acetamido-4-(4-octylphenyl)butyrate | 11 g | C(C)(=O)NC(C(=O)OC)CCC1=CC=C(C=C1)CCCCCCCC | C21H33NO3
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Acetamido-4-(4-octylphenyl)butanol | 6.6 g | C(C)(=O)NC(CO)CCC1=CC=C(C=C1)CCCCCCCC | C20H33NO2
